US07935702B2
1. 2,2-Dibromo-1-[6-ethoxy-4-(trifluoromethyl)pyridazin-3-yl]ethanone
Dissolve 2,2,6,6-tetramethylpiperidine (19.3 g, 136 mmol) in dry THF (300 mL). Cool the solution to 0° C., and slowly add n-BuLi (2.5M Hexanes; 50 mL, 125 mmol). Stir the mixture at 0° C. for ten minutes, and then cool to −78° C. Add this solution via canula to a mixture of ethyl 6-ethoxy-4-(trifluoromethyl)pyridazine-3-carboxylate (15.0 g, 56.8 mmol; prepared essentially as described by Guillaume et al. (1995) Synthesis 8:920-922) and dibromomethane (23.6 g, 136 mmol) in dry THF (300 mL) at −78° C. Stir the mixture at −78° C. for 30 minutes. Quench the reaction with water (200 mL) and allow it to warm to room temperature. Add brine (100 mL) and 3N HCl (100 mL). Extract with EtOAc (3×300 mL). Dry the combined organic extracts over sodium sulfate and evaporate. Chromatograph on silica eluting first with hexane followed by hexane/EtOAc (95/5) to yield the title compound. LC/MS (MH+) 392.87.

reactant | 2,2,6,6-tetramethylpiperidine | 136 mmol, 19.3 g | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | n-BuLi | 125 mmol, 2.5M, 50 mL | [Li]CCCC
reactant | ethyl 6-ethoxy-4-(trifluoromethyl)pyridazine-3-carboxylate | C(C)OC1=CC(=C(N=N1)C(=O)OCC)C(F)(F)F | C10H11F3N2O3
reactant | dibromomethane | 136 mmol, 23.6 g | BrCBr | CH2Br2
reactant | HCl | 3N, 100 mL | Cl | ClH
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | brine | 100 mL | [Cl-].[Na+].O
product | 2,2-Dibromo-1-[6-ethoxy-4-(trifluoromethyl)pyridazin-3-yl]ethanone | BrC(C(=O)C=1N=NC(=CC1C(F)(F)F)OCC)Br | C9H7Br2F3N2O2
